US05627227
220 g (0.45 mol) of octyl 3-(5-chloro-2H-benzotriazole-2-yl)-5-(1,1-dimethylethyl)-4-hydroxy-benzene propanate manufactured by CIBA GEIGY INC. under the trade name of "TINUVIN 109" were dissolved in 500 ml of allyl alcohol, and was admixed with 5 ml of concentrated sulfuric acid. The resulting solution was refluxed for five hours. After cooling, a precipitated product was filtered off. The resulting solid substance was dissolved in 300 ml of methylene chloride, washed with a saturated aqueous solution of NaHCO3 and dried over magnesium sulfate. After filtration, the solvent was distilled off and the resulting solid substance was recrystallized from hexane to produce allyl 3-(5-chloro-2H-benzotriazole-2-yl)-5-(1,1-dimethylethyl)-4-hydroxy-benzene propanate, referred to hereinafter as a precursor (4) at a yield of 90%.

reactant | octyl 3-(5-chloro-2H-benzotriazole-2-yl)-5-(1,1-dimethylethyl)-4-hydroxy-benzene propanate | 0.45 mol, 220 g | ClC1=CC=2C(=NN(N2)C=2C=C(C=C(C2O)C(C)(C)C)CCC(=O)OCCCCCCCC)C=C1 | C27H36ClN3O3
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | allyl alcohol | 500 ml | C(C=C)O | C3H6O
product | allyl 3-(5-chloro-2H-benzotriazole-2-yl)-5-(1,1-dimethylethyl)-4-hydroxy-benzene propanate | yield of 90% | ClC1=CC=2C(=NN(N2)C=2C=C(C=C(C2O)C(C)(C)C)CCC(=O)OCC=C)C=C1 | C22H24ClN3O3
